US08309746B2
Synthesis of androst-5-en-17-one-3β,7β-diol:
A 500 L reactor was charged 230 kg methanol, 33 kg (wet) 3β-acetoxy-7β-hydroxy-5-androsten-17-one, 108 kg water and 15 kg Na2CO3. The mixture was heated to reflux for 3 hours. Methanol was removed under vacuum whereupon 250 kg of water was added to the residue. The mixture was put in refrigerator overnight to give a precipitate. The solids were collected by filtration, then washed with water and dried at 40-50° C. to yield 9.5-10.5 kg (67.9-75.0%) of the title compound as a white solid.

reactant | methanol | 230 kg | CO | CH4O
reactant | 3β-acetoxy-7β-hydroxy-5-androsten-17-one | 33 kg | C(C)(=O)O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)O | C21H30O4
reactant | Na2CO3 | 15 kg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 108 kg | O | H2O
product | androst-5-en-17-one-3β,7β-diol | 9.5-10.5 kg, 67.9-75.0% | C[C@@]12C(CC[C@H]1[C@@H]1[C@H](C=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)=O | C19H28O3
